US04863958
To an ice-cold suspension of aluminium chloride (2.1 gm, 16mmoles) in ether (300 mL) was added slowly lithium aluminium hydride (2.6 gm, 68 mmoles). After stirring for a period of 10 minutes, 2-(p-chlorobenzoyl)-3-methyl-4-(p-chlorobenzoyloxy)-5-propyl-7-chlorobenzofuran (2.3 gm, 4.6mmoles) in ether (10 mL) was added over a period of 2 minutes. The reaction mixture was stirred at room temperature for 15 minutes. It was cooled with an ice bath and ice was added slowly. When the vigorous reaction subsided, the organic layer was separated and the agueous phase was extracted with ether. The organic phases were combined, washed with brine, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel. Elution with 15% ethylacetate in hexane yielded 0.30 gm (87%) of 2-(p-chlorobenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran, mp.76°-77° C.

reactant | aluminium chloride | 16mmoles, 2.1 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminium hydride | 68 mmoles, 2.6 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(p-chlorobenzoyl)-3-methyl-4-(p-chlorobenzoyloxy)-5-propyl-7-chlorobenzofuran | 4.6mmoles, 2.3 gm | ClC1=CC=C(C(=O)C=2OC3=C(C2C)C(=C(C=C3Cl)CCC)OC(C3=CC=C(C=C3)Cl)=O)C=C1 | C26H19Cl3O4
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2-(p-chlorobenzyl)-3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran | 0.30 gm, 87% | ClC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Cl)CCC)O)C=C1 | C19H18Cl2O2
